US04287341
A. 2-(3-Hydroxypyrrolidin-1-yl)-4-amino-6-chloro-7,8-dimethoxyquinazoline hydrochloride
A mixture of 4-amino-2,6-dichloro-7,8-dimethoxyquinazoline (5.48 g., 0.020 mole) and 3-pyrrolidinol (2.18 g., 0.025 mole) in 150 ml. of isoamyl alcohol is heated at reflux for five hours then cooled in ice. The precipitated product is collected by filtration and purified by recrystallization to obtain the title compound.

reactant | 4-amino-2,6-dichloro-7,8-dimethoxyquinazoline | 0.020 mole, 5.48 g | NC1=NC(=NC2=C(C(=C(C=C12)Cl)OC)OC)Cl | C10H9Cl2N3O2
reactant | 3-pyrrolidinol | 0.025 mole, 2.18 g | N1CC(CC1)O | C4H9NO
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | 2-(3-Hydroxypyrrolidin-1-yl)-4-amino-6-chloro-7,8-dimethoxyquinazoline hydrochloride | Cl.OC1CN(CC1)C1=NC2=C(C(=C(C=C2C(=N1)N)Cl)OC)OC | InChI=1S/C14H17ClN4O3.ClH/c1-21-11-9(15)5-8-10(12(11)22-2)17-14(18-13(8)16)19-4-3-7(20)6-19;/h5,7,20H,3-4,6H2,1-2H3,(H2,16,17,18);1H
